US07378418B2
Preparation of 2-(4-(Trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (300 mg, 0.84 mmol), prepared as described in Example 1, 4-(trifluoromethyl)benzyl bromide (200 mg, 0.84 mmol) and K2CO3 (290 mg, 2.1 mmol) in DMF (10 ml), was heated at 90° C. for 2 hours. After this time, the reaction mixture was cooled to RT and diluted with ethyl acetate. The resultant solution was then washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative HPLC to give the title compound, 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (120 mg, 28%) as a yellow solid. MS M+H=515; 1H NMR (CDCl3) δ 8.19 (1H), 7.60 (2H), 7.50 (2H), 7.34 (4H), 7.28 (2H), 7.10 (2H), 5.27 (2H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.84 mmol, 300 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 4-(trifluoromethyl)benzyl bromide | 0.84 mmol, 200 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | K2CO3 | 2.1 mmol, 290 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 120 mg, 28% | FC(C1=CC=C(CN2N=C3N(N=CC(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1)(F)F | C25H15Cl2F3N4O
